US04305881
A solution of 3.0 g (1 equivalent) of 1α,2α-epoxycholesta-4,6-dien-3-one in 200 ml of absolute ether is added dropwise within 45 minutes with stirring in an argon atmosphere at -31° C. to -33° C. to a solution of 210 mg (4 equivalents) of lithium in 300 ml of liquid ammonia, the liquid ammonia having been dried over sodium and distilled. As soon as the resulting mixture becomes light blue in colour the dropwise addition is quickly interrupted and 52.5 mg (1 equivalent) of lithium are added. After completion of the dropwise addition, the mixture containing cholesta-3,5-diene-1α,3β-diol dilithium salt, is stirred for 15 minutes, the blue colour is removed from the solution by the addition of 0.2 ml of isoprene and, with stirring, a total of 2.025 g 5 equivalents) of ammonium chloride are added in portions within 4 minutes. The resulting stirred yellowish mixture is treated under argon at -31° C. to -33° C. in the same manner with 2.312 g (5.7 equivalents) of ammonium chloride, and then with 298 mg (5.7 equivalents) of lithium; and as soon as these additions have reacted, the same procedure, i.e. the addition of 5.7 equivalents of ammonium chloride followed by 5.7 equivalents of lithium, is repeated a further four times. The mixture is thereafter treated with 10 g of ammonium chloride, and ammonia is evaporated until the temperature of the mixture has reached 0° C. The suspension is treated with 50 ml of saturated ammonium chloride solution and, after dilution with 200 ml of water, is extracted with ethyl acetate. The organic phase is dried over sodium sulphate and concentrated at 40° C./11 Torr. The crude product, 3.3 g, is chromatographed on a column of 60 g of silica gel prepared in hexane/ether (9:1). Elution with 400 ml of hexane/ether (4:1) and 1.3 liters of hexane/ether (1:1) yields 0.55 g of apolar fractions and with 2.5 liters of ether yields 2.472 g (81%) of crystalline 1α-hydroxycholesterol. After recrystallisation from acetone, this substance melts at 157°-159° C.; [α]D25 =-39.6° (c=0.5 in chloroform).

reactant | 1α,2α-epoxycholesta-4,6-dien-3-one | 3.0 g, 1 equivalent | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H40O2
reactant | lithium | 210 mg, 4 equivalents | [Li] | Li
reactant | ammonia | N | H3N
reactant | lithium | 52.5 mg, 1 equivalent | [Li] | Li
reactant | ammonium chloride | 2.312 g, 5.7 equivalents | [Cl-].[NH4+]
reactant | lithium | 298 mg, 5.7 equivalents | [Li] | Li
reactant | ammonium chloride | 5.7 equivalents | [Cl-].[NH4+]
reactant | lithium | 5.7 equivalents | [Li] | Li
reactant | ammonium chloride | 10 g | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 2.5 liters | CCOCC | C4H10O
product | 1α-hydroxycholesterol | 2.472 g, 81% | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O2
